US05039689
(±)-(1R*,2S*,3R*,5S*)-3-(6-Amino-9H-purin-9-yl)-5-(chloromethyl)-1,2-cyclopentanediol
(±)-(1R*,2S*,3R*,5R*)-3-(6-Amino-9H-purin-9-yl)-5-(hydroxymethyl)-1,2-cyclopentanediol (J. Am. Chem. Soc. 1969, 91, 3075) (0.94 g, 3.54 mmol) was stirred in hexamethylphosphoramide (13 ml) with cooling (ice bath) while thionyl chloride was added. The mixture was stirred under nitrogen at 25° C. for 18 hours. Ice water (50 ml) was added to the cooled mixture. The resulting solution was neutralized with concentrated ammonium hydroxide. The white precepitate was filtered off and dissolved in refluxing methanol (125 ml). Concentrated ammonium hydroxide (10 ml) was added and the solution allowed to cool slowly to 25° C. over 1 hour. The methanol was evaporated and the residual solid slurried in cold water and filtered to give title compound as an off-white powder (0.92 g, 92%); mp 188°-189° C. dec.

reactant | (±)-(1R*,2S*,3R*,5R*)-3-(6-Amino-9H-purin-9-yl)-5-(hydroxymethyl)-1,2-cyclopentanediol | 3.54 mmol, 0.94 g | NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)CO)O)O | C11H15N5O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hexamethylphosphoramide | 13 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | (±)-(1R*,2S*,3R*,5S*)-3-(6-Amino-9H-purin-9-yl)-5-(chloromethyl)-1,2-cyclopentanediol | 0.92 g, 92% | NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)CCl)O)O | C11H14ClN5O2
